US08133887B2
260 mg (0.75 mmol) of methyl trans-2-(2,6-dimethoxy-4-pentylphenyl)cyclo-hexanecarboxylate were initially introduced in 10 ml of dichloromethane, and 191 μl (2 mmol) of boron tribromide were added at −70° C. After 20 min, the cooling was removed, and the batch was hydrolysed at 0° C. using sat. sodium hydrogencarbonate soln. The mixture was extracted with dichloromethane, dried over sodium sulfate and evaporated. Chromatography with heptane/ethyl acetate (7:1) gave 100 mg (45%) of (6aR*,10aR*)-1-hydroxy-3-pentyl-6a,7,8,9,10,10a-hexahydrobenzo[c]chromen-6-one as a colourless solid.

reactant | methyl trans-2-(2,6-dimethoxy-4-pentylphenyl)cyclo-hexanecarboxylate | 0.75 mmol, 260 mg | COC1=C(C(=CC(=C1)CCCCC)OC)[C@H]1[C@@H](CCCC1)C(=O)OC | C21H32O4
reactant | boron tribromide | 2 mmol, 191 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (6aR*,10aR*)-1-hydroxy-3-pentyl-6a,7,8,9,10,10a-hexahydrobenzo[c]chromen-6-one | 100 mg, 45% | OC1=C2[C@H]3[C@H](C(OC2=CC(=C1)CCCCC)=O)CCCC3 | C18H24O3
